US09402841B2
Step A: (S)-tert-butyl 3-((6-cyano-3-methylpyridin-2-yl)oxy)pyrrolidine-1-carboxylate
To (S)-tert-butyl 3-hydroxypyrrolidine-1-carboxylate (491 mg, 2.62 mmol) in NMP (4 mL) was added Cs2CO3 (1025 mg, 3.15 mmol). The mixture was stirred at 0° C. for 1 hour at which time 6-chloro-5-methylpicolinonitrile (400 mg, 2.62 mmol) was added. The reaction mixture was heated at 140° C. for 1 hour in a microwave reactor to give the title compound in a crude reaction mixture that was used directly in the next step.

reactant | (S)-tert-butyl 3-hydroxypyrrolidine-1-carboxylate | 2.62 mmol, 491 mg | O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | Cs2CO3 | 3.15 mmol, 1025 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 6-chloro-5-methylpicolinonitrile | 2.62 mmol, 400 mg | ClC1=C(C=CC(=N1)C#N)C | C7H5ClN2
solvent | NMP | 4 mL | CN1CCCC1=O | C5H9NO
product | (S)-tert-butyl 3-((6-cyano-3-methylpyridin-2-yl)oxy)pyrrolidine-1-carboxylate | C(#N)C1=CC=C(C(=N1)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C | C16H21N3O3
